US07053089B2
1-Benzyl-pyrrolidine-3-carboxylic acid amide
To a mixture of 4.4 g 1-benzyl-pyrrolidine-3-carboxylic acid methyl ester (M. J. Kornet, P. A. Thio, S. E. Tan, J. Organic Chemistry, 33:3637–3639(1968) and 3 g formamide in 10 mL of anhydrous DMF heated to 100° C., a solution of sodium methoxide, from 0.33 g of sodium dissolved in methanol, was added dropwise over 20 minutes. After stirring for 1 h at 100° C., the mixture was allowed to cool to room temperature and added to 100 mL of isopropanol. The mixture was concentrated to dryness. The residue was triturated with 200 mL of chloroform, filtered and concentrated to dryness under reduced pressure. The resulting oil was fairly homogeneous by TLC (development with 90:10 chloroform saturated with ammonia:methanol):

reactant | 1-benzyl-pyrrolidine-3-carboxylic acid methyl ester | 4.4 g | COC(=O)C1CN(CC1)CC1=CC=CC=C1 | C13H17NO2
reactant | formamide | 3 g | C(=O)N | CH3NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.33 g | [Na] | Na
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | 1-Benzyl-pyrrolidine-3-carboxylic acid amide | C(C1=CC=CC=C1)N1CC(CC1)C(=O)N | C12H16N2O
